US05036075
A solution of 1-(3-chloropropyl)-4-phenyl-1,2,3,6-tetrahydropyridine (4.9 g) in dimethylformamide (20 cc) is added to a solution of the sodium salt of 2H-isothiazolo[3,4,5-de]isoquinoline 1,1-dioxide (obtained by heating, after the evolution of gas has ceased, a solution of 4-bromo-5-isoquinolylsulphonamide (4.1 g) in dimethylformamide (25 cc) and a suspension of sodium hydride (0.85 g) in an 80% dispersion in vaseline oil in dimethylformamide (50 cc) at 110° C. for 2 hours and 30 minutes) cooled to 20° C. The reaction medium is heated for 2 hours at 100° C., then poured into a mixture of water (300 cc) and ethyl acetate (300 cc). The organic phase is washed with water (3×300 cc), dried over magnesium sulphate and concentrated to dryness. The residue is purified by chromatography on a silica column under a slight overpressure of nitrogen, eluting with ethyl acetate and then with a mixture of ethyl acetate and ethanol vol). 2-[3-(4-Phenyl-1,2,3,6-tetrahydropyridyl)propyl]-2H-isothiazolo[3,4,5-de]isoquinoline 1,1-dioxide (1.4 g) is obtained in the form of a yellow oil. 1.8 g of this product are purified with a second, similar chromatography stage to give 2-[3-(4-phenyl-1,2,3,6-tetrahydropyridyl)propyl]-2H-isothiazolo[3,4,5-de]isoquinoline 1,1-dioxide (1.6 g) (Rf =0.27; support: silica gel; eluant: ethyl acetate-ethanol (9-1 vol)). This product is dissolved in ethyl acetate (100 cc) before adding a 3 N solution of hydrochloric acid in isopropyl oxide (5 cc). The precipitate is centrifuged, washed with ethyl acetate and dried under vacuum (0.1 mm Hg) at 35° C. 2-[3-(4-Phenyl-1,2,3,6-tetrahydropyridyl)propyl]-2H-isothiazolo[3,4,5-de]isoquinoline 1,1-dioxide dihydrochloride (1.6 g) is obtained in the form of a yellow (amorphous) solid.

reactant | 1-(3-chloropropyl)-4-phenyl-1,2,3,6-tetrahydropyridine | 4.9 g | ClCCCN1CCC(=CC1)C1=CC=CC=C1 | C14H18ClN
reactant | sodium | [Na] | Na
reactant | 2H-isothiazolo[3,4,5-de]isoquinoline 1,1-dioxide | S1(NC=2C=NC=C3C=CC=C1C23)(=O)=O | C9H6N2O2S
reactant | 4-bromo-5-isoquinolylsulphonamide | 4.1 g | BrC1=CN=CC2=CC=CC(=C12)S(=O)(=O)N | C9H7BrN2O2S
reactant | sodium hydride | 0.85 g | [H-].[Na+]
solvent | dimethylformamide | 20 cc | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 cc | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 cc | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 300 cc | C(C)(=O)OCC | C4H8O2
solvent | water | 300 cc | O | H2O
product | 2-[3-(4-Phenyl-1,2,3,6-tetrahydropyridyl)propyl]-2H-isothiazolo[3,4,5-de]isoquinoline 1,1-dioxide | 1.4 g | C1(=CC=CC=C1)C=1CCN(CC1)CCCN1S(C=2C3=C1C=NC=C3C=CC2)(=O)=O | C23H23N3O2S
